US07964618B2
6-chloro-N-methyl-2-(propylthio)-N-(tetrahydro-2H-pyran-4-yl)nicotinamide (0.398 g, 1.21 mmol) was added to (S)-methyl 2-(piperidin-3-yl)acetate.HCl (0.353 g, 1.82 mmol) and potassium carbonate (0.753 g, 5.45 mmol) in butyronitrile (3 mL) was heated at 150° C. for 4 hours. The reaction mixture was diluted with DCM (60 mL), and washed sequentially with water (20 mL) and brine (20 mL). The organic layer was dried over MgSO4, filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 0 to 100% EtOAc in DCM. Pure fractions were evaporated to dryness to afford methyl [(3S)-1-{5-[methyl(tetrahydro-2H-pyran-4-yl)carbamoyl]-6-(propylthio)pyridin-2-yl}piperidin-3-yl]acetate (0.310 g, 57%) as a white solid.

reactant | 6-chloro-N-methyl-2-(propylthio)-N-(tetrahydro-2H-pyran-4-yl)nicotinamide | 1.21 mmol, 0.398 g | ClC1=NC(=C(C(=O)N(C2CCOCC2)C)C=C1)SCCC | C15H21ClN2O2S
reactant | (S)-methyl 2-(piperidin-3-yl)acetate | N1C[C@@H](CCC1)CC(=O)OC | C8H15NO2
reactant | HCl | 1.82 mmol, 0.353 g | Cl | ClH
reactant | potassium carbonate | 5.45 mmol, 0.753 g | C([O-])([O-])=O.[K+].[K+]
solvent | butyronitrile | 3 mL | C(CCC)#N | C4H7N
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | methyl [(3S)-1-{5-[methyl(tetrahydro-2H-pyran-4-yl)carbamoyl]-6-(propylthio)pyridin-2-yl}piperidin-3-yl]acetate | 0.310 g, 57% | CN(C(=O)C=1C=CC(=NC1SCCC)N1C[C@@H](CCC1)CC(=O)OC)C1CCOCC1 | C23H35N3O4S
